US06583180B2
3-(allyloxy)phenyl acetate
Resorcinol monoacetate (10.0 g, 65.7 mmoles) in anhydrous DMF (100 mL) was treated with K2CO3 (18.2 g, 131 mmoles) and allyl bromide (6.83 mL, 78.9 mmoles). The mixture was heated at 80° C. overnight, cooled to room temperature, and diluted with ethyl acetate. The mixture was washed with H2O, brine, dried (Na2SO4), filtered, and the filtrate concentrated under reduced pressure. The residue was purified by flash chromatography (silica gel, 8% to 10% ethyl acetate:hexanes) to provide the title compound as a colorless oil (7.19 g, 57%). MS (DCI) m/z 193 (M+H)+.

reactant | Resorcinol monoacetate | 65.7 mmoles, 10.0 g | C(C)(=O)OC1=CC(O)=CC=C1 | C8H8O3
reactant | K2CO3 | 131 mmoles, 18.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 78.9 mmoles, 6.83 mL | C(C=C)Br | C3H5Br
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(allyloxy)phenyl acetate | 7.19 g, 57% | C(C)(=O)OC1=CC(=CC=C1)OCC=C | C11H12O3
